US09216173B2
To a solution of {6-[(tert-butoxycarbonyl)amino]pyridin-2-yl}methyl methanesulfonate (160 mg, 0.52 mmol) in acetonitrile (2.5 mL) was added morpholine (90 mg, 1.0 mmol) and potassium carbonate (214 mg, 1.55 mmol) at room temperature. After 16 hours, the reaction mixture was quenched with aqueous saturated sodium bicarbonate, partially concentrated under reduced pressure, and diluted with ethyl acetate. The organic layer was separated, dried over magnesium sulfate, filtered, and concentrated under reduced pressure to afford tert-butyl [6-(morpholin-4-ylmethyl)pyridin-2-yl]carbamate that was used without further purification. MS ESI calc'd for C15H24N3O3 [M+H]+ 294. found 294.

reactant | {6-[(tert-butoxycarbonyl)amino]pyridin-2-yl}methyl methanesulfonate | 0.52 mmol, 160 mg | CS(=O)(=O)OCC1=NC(=CC=C1)NC(=O)OC(C)(C)C | C12H18N2O5S
reactant | morpholine | 1.0 mmol, 90 mg | N1CCOCC1 | C4H9NO
reactant | potassium carbonate | 1.55 mmol, 214 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 2.5 mL | C(C)#N | C2H3N
product | tert-butyl [6-(morpholin-4-ylmethyl)pyridin-2-yl]carbamate | N1(CCOCC1)CC1=CC=CC(=N1)NC(OC(C)(C)C)=O | C15H23N3O3
